US07705025B2
4-(5-Chloro-1H-benzoimidazol-2-yl)-benzoyl chloride
To a stirring solution of 4-(5-chloro-1H-benzoimidazol-2-yl)-benzoic acid (1.0 mmol) (CAS 204514-08-9) and oxalyl chloride (2.0 mmol) in dichloromethane (0.10M), add 2 drops of dimethylformamide as a catalyst. Stir at room temperature for 2 hours. After this time, concentrate the reaction in vacuo. Assume total conversion to the acid chloride.

reactant | 4-(5-chloro-1H-benzoimidazol-2-yl)-benzoic acid | 1.0 mmol | ClC1=CC2=C(NC(=N2)C2=CC=C(C(=O)O)C=C2)C=C1 | C14H9ClN2O2
reactant | oxalyl chloride | 2.0 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-(5-Chloro-1H-benzoimidazol-2-yl)-benzoyl chloride | ClC1=CC2=C(NC(=N2)C2=CC=C(C(=O)Cl)C=C2)C=C1 | C14H8Cl2N2O
